US04727081
1-[(5-Amino-1,3,4-thiadiazol-2-yl)amino]-3-[3-(1-piperidinylmethyl)phenoxy]-2-propanol
0.54 g (3 mmol) of 5-bromo-1,3,4-thiadiazole-2-amine and 0.45 ml of triethylamine are added to 0.8 g (3 mmol) of 1-amino-3-[3-(1-piperidinylmethyl)phenoxy]-2-propanol in 20 ml of THF and the mixture is reacted in a manner analogous to Example 51. The oil obtained is purified by column chromatography (silica gel; ammoniacal. Methanolchloroform solution (5+95)).

reactant | 5-bromo-1,3,4-thiadiazole-2-amine | 3 mmol, 0.54 g | BrC1=NN=C(S1)N | C2H2BrN3S
reactant | triethylamine | 0.45 ml | C(C)N(CC)CC | C6H15N
reactant | 1-amino-3-[3-(1-piperidinylmethyl)phenoxy]-2-propanol | 3 mmol, 0.8 g | NCC(COC1=CC(=CC=C1)CN1CCCCC1)O | C15H24N2O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-[(5-Amino-1,3,4-thiadiazol-2-yl)amino]-3-[3-(1-piperidinylmethyl)phenoxy]-2-propanol | NC1=NN=C(S1)NCC(COC1=CC(=CC=C1)CN1CCCCC1)O | C17H25N5O2S
